US05015661
rac-3-[(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-4-hydroxy-5-methoxybenzenemethanol.
This compound was obtained by reacting rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 3-iodo-4-hydroxy-5-methoxybenzenemethanol [P. Claus et al. Monatsh. Chem. 103, 1178 (1972)]under the conditions described in Example 1. The product was isolated by chromatography over silica gel using 30 % (V/V) of ethyl acetate in methylene chloride. Crystallization from ether/ hexane yielded colorless crystals with m.p. 160°-163°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 3-iodo-4-hydroxy-5-methoxybenzenemethanol | IC=1C=C(C=C(C1O)OC)CO | C8H9IO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-3-[(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-4-hydroxy-5-methoxybenzenemethanol | OC=1C(=C(C2=C(CCC(O2)(C)C#CC=2C=C(C=C(C2O)OC)CO)C1C)C)C | C23H26O5
